US06136157
(E)-Methyl-4-cyanocinnamate.
Table 1, Entry 2. In the reaction tube were mixed 4-bromobenzonitrile (0.182 g, 1.0 mmol), methyl acrylate (0.108 g, 1.25 mmol), palladium acetate (0.00225 g, 0.01 mmol), tri-o-tolylphosphine (0.0122 g, 0.04 mmol), triethylamine (0.127 g, 1.25 mmol) and 0.50 ml DMF.under nitrogen. The contents of the flask were irradiated for 3.50 min with an effect of 60 W. After cooling, the product mixture was poured into 25 ml water and was extracted three times with 25 ml DCM. The combined extracts were washed with 25 ml water and concentrated to an oil. The crude product was purified by column chromatography on silica gel using i-hexane/diethyl ether (1/1) as the eluent. The yield was 94% (pale yellow crystals).

reactant | 4-bromobenzonitrile | 1.0 mmol, 0.182 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | methyl acrylate | 1.25 mmol, 0.108 g | C(C=C)(=O)OC | C4H6O2
reactant | tri-o-tolylphosphine | 0.04 mmol, 0.0122 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 1.25 mmol, 0.127 g | C(C)N(CC)CC | C6H15N
catalyst | palladium acetate | 0.01 mmol, 0.00225 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 25 ml | O | H2O
solvent | DMF | 0.50 ml | CN(C)C=O | C3H7NO
product | (E)-Methyl-4-cyanocinnamate | yield was 94% | COC(\C=C\C1=CC=C(C=C1)C#N)=O | C11H9NO2
